US04069327
The reaction of 1,4-dimethylimidazole (5.65 g.) with n-butyl lithium followed by treatment with formaldehyde according to the method described for the preparation of 3-hydroxymethyl-5,6,7,8-tetrahydromidazo[1,5-a]pyridine (used for Example 224) gave 1,4-dimethyl-2-hydroxymethylimidazole (2.71 g.), m.p. 125-126° (ethyl acetate-petroleum ether).

reactant | 1,4-dimethylimidazole | 5.65 g | CN1C=NC(=C1)C | C5H8N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | formaldehyde | C=O | CH2O
product | 1,4-dimethyl-2-hydroxymethylimidazole | 2.71 g | CN1C(=NC(=C1)C)CO | C6H10N2O
